US04075000
1-(3,4-dichlorophenyl)-3,3-dimethyl-4-morpholino-2-azetidinone
A 1.88 g. portion of 3,4-dichlorophenylisocyanate was added to 2.82 g. of 1-morpholino-1-isobutene. The mixture was stirred at room temperature for 48 hours. At the end of that time, the excess enamine was removed under vacuum, and the remaining oil, 3.0 g., was found by nuclear magnetic resonance analysis to be 1-(3,4-dichlorophenyl)-3,3-dimethyl-4-morpholino-2-azetidinone, a liquid.

reactant | 3,4-dichlorophenylisocyanate | ClC=1C=C(C=CC1Cl)N=C=O | C7H3Cl2NO
reactant | 1-morpholino-1-isobutene | O1CCN(CC1)C=C(C)C | C8H15NO
product | 1-(3,4-dichlorophenyl)-3,3-dimethyl-4-morpholino-2-azetidinone | ClC=1C=C(C=CC1Cl)N1C(C(C1N1CCOCC1)(C)C)=O | C15H18Cl2N2O2
